US09371320B2
A) (5-bromo-3-fluoro-2-methoxypyridin-4-yl) (cyclopentyl)methanol
To a solution of DIEA (0.827 mL) in THF (90 mL) was added 1.6 M n-butyllithium hexane solution (3.64 mL) at −78° C., and the mixture was stirred under argon atmosphere at −78° C. for 30 min. To the reaction mixture was added a solution of 5-bromo-3-fluoro-2-methoxypyridine (1.00 g) in THF (30 mL) at −78° C., and the mixture was stirred under argon atmosphere at −78° C. for 1 hr. To the reaction mixture was added cyclopentanecarbaldehyde (0.572 g) at −78° C., and the mixture was stirred under argon atmosphere at −78° C. for 1 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution at −78° C., and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (430 mg).

reactant | DIEA | 0.827 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | n-butyllithium hexane | 1.6 M, 3.64 mL | CCCCCC.C(CCC)[Li]
reactant | 5-bromo-3-fluoro-2-methoxypyridine | 1.00 g | BrC=1C=C(C(=NC1)OC)F | C6H5BrFNO
reactant | cyclopentanecarbaldehyde | 0.572 g | C1(CCCC1)C=O | C6H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (5-bromo-3-fluoro-2-methoxypyridin-4-yl) (cyclopentyl)methanol | 430 mg | BrC=1C(=C(C(=NC1)OC)F)C(O)C1CCCC1 | C12H15BrFNO2
